US04060523
A solution of 3.26 g. (0.01 mol) of 2-benzoyl-3-methylthiomethylquinoxaline 1,4-dioxide and 2.20 g. (0.01 mol.) of 85% pure 3-chloroperbenzoic acid in 150 ml. of chloroform is stirred at room temperature overnight. The reaction mixture is washed with 5% sodium bicarbonate solution, dried, and evaporated in vacuo to afford crude 2-benzoyl-3-methylsulfinylmethylquinoxaline 1,4-dioxide.

reactant | 2-benzoyl-3-methylthiomethylquinoxaline 1,4-dioxide | 0.01 mol | C(C1=CC=CC=C1)(=O)C1=[N+](C2=CC=CC=C2[N+](=C1CSC)[O-])[O-] | C17H14N2O3S
reactant | 3-chloroperbenzoic acid | 0.01 mol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-benzoyl-3-methylsulfinylmethylquinoxaline 1,4-dioxide | C(C1=CC=CC=C1)(=O)C1=[N+](C2=CC=CC=C2[N+](=C1CS(=O)C)[O-])[O-] | C17H14N2O4S
